US07943607B2
3-[(5,5-Dioxido-3,4-dihydro-2H-1,5-benzoxathiepin-8-yl)oxy]-5-{[(1S)-2-hydroxy-1-methylethyl]oxy}-N-(5-methylpyrazin-2-yl)benzamide
Iodotrimethylsilane (0.416 mL, 2.92 mmol) was added to a solution of 3-[(5,5-dioxido-3,4-dihydro-2H-1,5-benzoxathiepin-8-yl)oxy]-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}-N-(5-methylpyrazin-2-yl)benzamide (150 mg, 0.29 mmol) in acetonitrile (7 mL) and the reaction stirred at RT overnight. Methanol (35 mL) was added, the reaction stirred for 1 hour, then a saturated aqueous solution of sodium thiosulphate (30 mL) was added and the reaction stirred for a further 20 minutes. The mixture was evaporated in vacuo, and the product was extracted away from the inorganic residues by the addition of 20% methanol in DCM (40 mL) with stirring. The organics were reduced in vacuo to a volume of approximately 5 mL. The residue was chromatographed on silica, eluting with 0-20% methanol in DCM, to give the desired compound as a cream solid (79 mg).

reactant | Iodotrimethylsilane | 2.92 mmol, 0.416 mL | I[Si](C)(C)C | C3H9ISi
reactant | 3-[(5,5-dioxido-3,4-dihydro-2H-1,5-benzoxathiepin-8-yl)oxy]-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}-N-(5-methylpyrazin-2-yl)benzamide | 0.29 mmol, 150 mg | O=S1(CCCOC2=C1C=CC(=C2)OC=2C=C(C(=O)NC1=NC=C(N=C1)C)C=C(C2)O[C@H](COC)C)=O | C25H27N3O7S
reactant | Methanol | 35 mL | CO | CH4O
reactant | sodium thiosulphate | 30 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 7 mL | C(C)#N | C2H3N
product | 3-[(5,5-Dioxido-3,4-dihydro-2H-1,5-benzoxathiepin-8-yl)oxy]-5-{[(1S)-2-hydroxy-1-methylethyl]oxy}-N-(5-methylpyrazin-2-yl)benzamide | 79 mg | O=S1(CCCOC2=C1C=CC(=C2)OC=2C=C(C(=O)NC1=NC=C(N=C1)C)C=C(C2)O[C@H](CO)C)=O | C24H25N3O7S
